US04960766
To a solution of benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(2-cyclopenten-1-yloxyimino)acetamido]-3-(4-hydroxymethyl-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate chloride (syn isomer, 1.9 g), anisole (2 ml) and methylene chloride (6 ml) was added trifluoroacetic acid (4 ml) under ice-cooling with stirring. After stirring at the same temperature for 1 hour, the mixture was dissolved in water and the solution was adjusted to pH 4 with 5% aqueous solution of sodium bicarbonate. The solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" and eluted with 3% aqueous solution of isopropyl alcohol. The fractions containing the object compound were collected, combined, concentrated, and finally lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-(hydroxyimino)acetamido]-3-(4-hydroxymethyl-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer, 0.32 g).

reactant | benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(2-cyclopenten-1-yloxyimino)acetamido]-3-(4-hydroxymethyl-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate chloride | 1.9 g | [Cl-].NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=C(C2)CO)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC1C=CCC1
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 7β-[2-(2-aminothiazol-4-yl)-2-(hydroxyimino)acetamido]-3-(4-hydroxymethyl-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.32 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=C(C2)CO)C)C(=O)[O-])C1=O)=NO | C18H19N7O6S2
